US06432987B1
1-(4-Nitrobenzyl)indole
A mixture of 5.28 g of sodium hydride (0.22 mol, mineral oil suspension) in 200 ml of dimethyl sulfoxide is treated with a solution of 23.4 g (0.2 mol) of indole in 100 ml of dimethyl sulfoxide. It is heated at 65° C. for 1 hour, then allowed to cool and 37.7 g (0.22 mol) of 4-nitrobenzyl chloride are then added dropwise. The solution is heated to 60° C., kept at room temperature for 14 hours and then poured into 700 ml of ater with stirring. The mixture is extracted in portions with a total of 300 ml of methylene chloride, the organic phase is dried using anhydrous sodium sulfate, filtered and the filtrate is concentrated in vacuo. The residue is purified on a silica gel column (silica gel 60, Merck AG, Darmstadt; eluent methylene chloride/ethanol 9:1, v/v).

reactant | sodium hydride | 0.22 mol, 5.28 g | [H-].[Na+]
reactant | indole | 0.2 mol, 23.4 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-nitrobenzyl chloride | 0.22 mol, 37.7 g | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(4-Nitrobenzyl)indole | [N+](=O)([O-])C1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12N2O2
